US06136823
Synthesis of 5-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
5-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid (100 mg) and a methylamine solution (82 mg) were added to pyridine (1 ml), and the mixture was heated and stirred at 30° C. for 4 days. After the reaction mixture was allowed to cool, it was concentrated under reduced pressure. Ethanol was added to the residue, and solids were collected by filtration and washed with diethyl ether to obtain the title compound (63 mg) as a brown powder.

reactant | 5-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6,7-difluoro-4-oxo-1,4-dihydroquinoline-3-carboxylic acid | 100 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)Cl)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O | C16H8ClF4N3O3
reactant | methylamine | 82 mg | CN | CH5N
reactant | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 5-Amino-1-(5-amino-2,4-difluorophenyl)-8-chloro-6-fluoro-7-methylamino-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 63 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)NC)Cl)C1=C(C=C(C(=C1)N)F)F)C(=O)O)=O | C17H12ClF3N4O3
